US04205085
Ethyl 4-[(pentadecafluoroheptyl)methylamino]benzoate
A solution of 45 g. of (pentadecafluoroheptyl)(trifluoromethanesulfonyloxy)methane and 28 g. of ethyl 4-aminobenzoate in 50 ml. of hexamethylphosphoramide is stirred at 120° C. for 72 hours, diluted with water, and filtered. A methylene chloride solution of the solid is dried over anhydrous magnesium sulfate and evaporated. The residue is recrystallized from acetonitrile to yield the product as a white solid.

reactant | (pentadecafluoroheptyl)(trifluoromethanesulfonyloxy)methane | FC(C(C(C(C(C(F)(F)COS(=O)(=O)C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C9H2F18O3S
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl 4-[(pentadecafluoroheptyl)methylamino]benzoate | FC(C(C(C(C(C(F)(F)N(C1=CC=C(C(=O)OCC)C=C1)C)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C17H12F15NO2
